US05116841
5-isocyanomethyl-3-methylisoxazole
To a cooled and stirred solution of 5-formylaminomethyl-3-methylisoxazole (5.45 g, 39 mmol) and triethylamine (16.7 ml, 120 mmol) in dichloromethane (50 ml) was added dropwise phosphorus oxychloride (4 ml, 43 mmol) during 30 min., the temperature being kept below 0° C. Stirring was continued for 30 min., then a solution of sodium carbonate (4.55 g, 43 mmol) in water (50 ml) was added dropwise (<0° C.). Additional water (50 ml) was added and the layers were separated. The aqueous phase was extracted twice with dichloromethane (2×30 ml). The combined organic layers were dried, the solvent was evaporated, and the residue was extracted with ether (2×75 ml). The extracts were combined and the solvent was removed to give the title compound as a dark oil, 1H-NMR (CDCl3): 2.30 (s,3H), 4.75 (s,2H), 6.25 (s,1H). (Compound 16).

reactant | 5-formylaminomethyl-3-methylisoxazole | 39 mmol, 5.45 g | C(=O)NCC1=CC(=NO1)C | C6H8N2O2
reactant | triethylamine | 120 mmol, 16.7 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 43 mmol, 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | 43 mmol, 4.55 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 5-isocyanomethyl-3-methylisoxazole | [N+](#[C-])CC1=CC(=NO1)C | C6H6N2O
